US08026234B2
Compound 115: 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-(dimethylamino)-2-oxoethyl)piperidin-4-yl)-3-methoxybenzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for the synthesis of the compound 16 using HATU except that 2-(4-aminopiperidin-1-yl)-N,N-dimethylacetamide was used. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.46-2.17 (m, 14H) 2.94 (d, J=10.61 Hz, 6H) 3.01-3.20 (m, 2H) 3.33 (s, 3H) 4.06 (t, J=13.89 Hz, 5H) 4.24 (d, J=4.55 Hz, 2H) 4.78 (t, J=7.45 Hz, 1H) 7.43-7.62 (m, 2H) 8.06 (br. s., 1H) 8.27 (s, 2H) 8.36 (d, J=7.07 Hz, 1H) 9.52 (br. s., 1H) [M+H] calc'd for C30H40F2N8O4, 614. found 614.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(4-aminopiperidin-1-yl)-N,N-dimethylacetamide | NC1CCN(CC1)CC(=O)N(C)C | C9H19N3O
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-(dimethylamino)-2-oxoethyl)piperidin-4-yl)-3-methoxybenzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)CC(=O)N(C)C)C=C2)OC | C30H40F2N8O4
